US06632824B2
8-(2-Chloroethyl)-3-(2-naphthyl)-8-azabicyclo[3.2.1]oct-2-ene
2-[3-(2-Naphthyl)-8-azabicyclo[3.2.1]oct-2-en-8-yl]ethanol (0.95 g, 3.40 mmol), 0.42 g (3.70 mmol) MsCl, 0.71 mL (515 mg, 5.10 mmol) Et3N and 20 mL CH2Cl2 are stirred at 23 C in for 12 h. The reaction mixture is poured into 200 mL of H2O and extracted with 3×50 mL CH2Cl2. The combined organics are washed with H2O (3×100 mL,) brine (1×100 mL), dried over MgSO4, filtered, and the volatiles are evaporated. Flash chromatography on SiO2 gel, eluting with EtOAc/MeOH (20/1 to 10/1), gives 0.50 g (1.68 mmol, a 50% yield) of the title compound as a tan solid. mp: 122-123° C.; MS (ES) m/z 298 (MH)+.

reactant | 2-[3-(2-Naphthyl)-8-azabicyclo[3.2.1]oct-2-en-8-yl]ethanol | 3.40 mmol, 0.95 g | C1=C(C=CC2=CC=CC=C12)C1=CC2CCC(C1)N2CCO | C19H21NO
reactant | MsCl | 3.70 mmol, 0.42 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | Et3N | 5.10 mmol, 0.71 mL, 515 mg | CCN(CC)CC | C6H15N
reactant | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
solvent | H2O | 200 mL | O | H2O
product | 8-(2-Chloroethyl)-3-(2-naphthyl)-8-azabicyclo[3.2.1]oct-2-ene | 50% yield | ClCCN1C2C=C(CC1CC2)C2=CC1=CC=CC=C1C=C2 | C19H20ClN
